US08278030B2
While 11.2 parts of 2-(phenylthio)thioxanthone synthesized in Production Example 1, 215 parts of acetonitrile, and 0.02 parts of sulfuric acid were stirred at 40° C., 4.0 parts of a 30% aqueous hydrogen peroxide solution was dropped thereto slowly and then a reaction was performed at 40 to 45° C. for 14 hours. Subsequently, the reaction solution was cooled to room temperature (about 25° C.) and then was poured into 200 parts of distilled water, so that the product was precipitated. This was filtered and the residue was washed with water until the pH of the filtrate became neutral. Then the residue was dried under reduced pressure, affording a yellow powdery product. The product was purified by column chromatography (eluate: ethyl acetate/toluene=⅓:volume ratio) to afford 2-[(phenyl)sulfinyl]thioxanthone in a yield of 83%. The product was identified by 1H-NMR {d6-dimethyl sulfoxide, δ (ppm) 8.75 (1H, s), 8.45 (1H, d), 8.01 (2H, d), 7.75-7.85 (4H, m), 7.53-7.62 (4H, m)}.

reactant | 2-(phenylthio)thioxanthone | C1(=CC=CC=C1)SC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C19H12OS2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen peroxide | OO | H2O2
solvent | water | O | H2O
product | 2-[(phenyl)sulfinyl]thioxanthone | yield of 83% | C1(=CC=CC=C1)S(=O)C1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C19H12O2S2
